US04229515
The compound was prepared by a modified procedure of Stoermer and Behn (R. Stoermer and K. Behn, Ber., 34 [1901], 2455). A 500-ml, three-neck flask equipped with a stirrer, thermometer and a gas inlet was charged with salicylaldehyde (61 g), formaldehyde (40 percent aqueous solution, 41 g) and hydrochloric acid (32 weight percent, 60 g). HCl gas was passed into the reaction mixture for 20 hours while the temperature was maintained below 30° C. The resulting dark purple reaction mixture was then treated with hot water (3×200 ml) to remove the unreacted paraformaldehyde. The crude product was sublimed at 100°/1 mm to give 34 g of white 3-formyl-4-hydroxybenzyl chloride (40 percent yield in salicylaldehyde), m.p. 90° C.

reactant | salicylaldehyde | 61 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | formaldehyde | 41 g | C=O | CH2O
reactant | hydrochloric acid | 60 g | Cl | ClH
reactant | water | 200 ml | O | H2O
product | 3-formyl-4-hydroxybenzyl chloride | 34 g, 40 percent yield | C(=O)C=1C=C(CCl)C=CC1O | C8H7ClO2
